US09102664B2
Step-a): Preparation of (R)-3-((S)-4-(2,4-difluorophenyl)-2-(hydroxymethyl) pent-4-enoyl)-4-phenyloxazolidin-2-one (Formula-5)
Titanium chloride solution (prepared from 33.8 ml of titanium chloride and 50 ml of dichloromethane) was added to a pre-cooled solution of (R)-3-(4-(2,4-difluorophenyl)pent-4-enoyl)-4-phenyloxazolidin-2-one compound of formula-4 (100 g) in dichloro methane (1000 ml) at −20 to −10° C. under nitrogen atmosphere and diisopropyl ethylamine (45.61 μm) was added to the reaction mixture and stirred for 40 minutes at −20 to −10° C. A trioxane solution (prepared from 52.94 g of trioxane and 150 ml of dichloro methane) was added to the reaction mixture at −20 to −10° C. and followed by titanium chloride solution (prepared from 33.8 ml of titanium chloride and 50 ml of dichloro methane) at −20 to −10° C. Temperature of the reaction mixture was raised to −5 to 0° C. and stirred for 2 hours at −5 to 0° C. After completion of the reaction, the reaction mixture was added to 10% ammonium chloride at 10-15° C. Both organic and aqueous layers were separated and the aqueous layer was extracted with dichloro methane. Both the dichloro methane layers were combined and washed with water followed by 10% sodium chloride solution. The obtained dichloro methane layer was taken to the next step without isolating the title compound.

reactant | (R)-3-(4-(2,4-difluorophenyl)pent-4-enoyl)-4-phenyloxazolidin-2-one | FC1=C(C=CC(=C1)F)C(CCC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)=C | C20H17F2NO3
reactant | diisopropyl ethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trioxane | 150 ml, 52.94 g | O1OOCCC1 | C3H6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloro methane | 1000 ml | ClCCl | CH2Cl2
catalyst | Titanium chloride | 33.8 ml | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
catalyst | titanium chloride | 33.8 ml | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-]
product | (R)-3-((S)-4-(2,4-difluorophenyl)-2-(hydroxymethyl) pent-4-enoyl)-4-phenyloxazolidin-2-one | FC1=C(C=CC(=C1)F)C(C[C@H](C(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O)CO)=C | C21H19F2NO4
